US06723722B1
(3S)-3-(7-Bromo-2H-benzopyran-3-sulfonylamino)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-pyrrolidone
Similarly to Example 86 and using (3S)-3-(tert-butoxycarbonylamino)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-pyrrolidone (220 mg) and 7-bromo-2H-benzopyran-3-sulfonyl chloride (161 mg), the title compound (87 mg) was obtained as a colorless amorphous material.

reactant | (3S)-3-(tert-butoxycarbonylamino)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-pyrrolidone | 220 mg | C(C)(C)(C)OC(=O)N[C@@H]1C(N(CC1)NC1CCN(CC1)C1=CC=NC=C1)=O | C19H29N5O3
reactant | 7-bromo-2H-benzopyran-3-sulfonyl chloride | 161 mg | BrC1=CC2=C(C=C(CO2)S(=O)(=O)Cl)C=C1 | C9H6BrClO3S
product | (3S)-3-(7-Bromo-2H-benzopyran-3-sulfonylamino)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-pyrrolidone | 87 mg | BrC1=CC2=C(C=C(CO2)S(=O)(=O)N[C@@H]2C(N(CC2)NC2CCN(CC2)C2=CC=NC=C2)=O)C=C1 | C23H26BrN5O4S
